US08084623B2
To a stirred solution of 2-butyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (0.842 g, 2.95 mmol) in THF (30 mL) at 0° C. under nitrogen was added LiAlH4 (2.95 mL of a 1.0 M solution in THF, 2.95 mmol) dropwise. After 15 min the reaction mixture was quenched by the addition of sodium sulfate decahydrate (2.5 g) then filtered. The filter cake was washed with DCM (50 mL) then the combined filtrates were concentrated in vacuo to give 2-butyl-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (0.763 g) as a clear, colourless oil that was used directly without further purification.

reactant | 2-butyl-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 2.95 mmol, 0.842 g | COC(=O)C1(N(CCC1)C(=O)OC(C)(C)C)CCCC | C15H27NO4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-butyl-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.763 g | C(C)(C)(C)OC(=O)N1C(CCC1)(CO)CCCC | C14H27NO3
